US04337256
Thirty-four (34) grams of 1-(4-bromophenyl)-5-methyl-3,4-dihydroisoquinoline was reacted for 8 hours together with 200 g of active manganese dioxide and 1000 ml of benzene. After the reaction, the manganese dioxide was removed by filtration, and the benzene was distilled off. Recrystallization of the resulting colorless crystals (29 g) from cyclohexane afforded 1-(4-bromophenyl)-5-methylisoquinoline as colorless needles having a melting point of 126.5° to 127.5° C.

reactant | 1-(4-bromophenyl)-5-methyl-3,4-dihydroisoquinoline | BrC1=CC=C(C=C1)C1=NCCC2=C(C=CC=C12)C | C16H14BrN
catalyst | manganese dioxide | 200 g | [O-2].[O-2].[Mn+4]
solvent | benzene | 1000 ml | C1=CC=CC=C1 | C6H6
product | 1-(4-bromophenyl)-5-methylisoquinoline | BrC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)C | C16H12BrN
